US08217032B2
4-[2-(3-Fluoro-phenyl)-6-methoxy-naphthalen-1-yloxy]-phenol
Dissolve 2-(3-fluoro-phenyl)-6-methoxy-naphthalen-1-ol (3.36 g, 12.5 mmol) in N-methyl-2-pyrrolidinone (NMP) (10 mL) and add sodium hydride (500 mg, 60% oil dispersion, 12.5 mmol) at room temperature. After stirring for 1 hour this solution is added to a solution of 4-fluorobenzaldehyde (2.4 mL, 22.5 mmol) in NMP (10 mL) that has been heated to 185° C. Continue stirring for 2.5 hours. Cool the reaction to room temperature and add pH 7 buffer (50 mL) and extract with ethyl acetate (2×100 mL). Wash the organic extracts with water and filter through a plug of silica gel. Purify the crude product using radial chromatography giving 2.50 g (54%) of the title compound and use without further purification: mass spectrum (ion spray) m/z=371 (M−H).

reactant | 2-(3-fluoro-phenyl)-6-methoxy-naphthalen-1-ol | 12.5 mmol, 3.36 g | FC=1C=C(C=CC1)C1=C(C2=CC=C(C=C2C=C1)OC)O | C17H13FO2
reactant | sodium hydride | 12.5 mmol, 500 mg | [H-].[Na+]
reactant | 4-fluorobenzaldehyde | 22.5 mmol, 2.4 mL | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | N-methyl-2-pyrrolidinone | 10 mL | CN1C(CCC1)=O | C5H9NO
reactant | NMP | 10 mL | CN1C(CCC1)=O | C5H9NO
product | 4-[2-(3-Fluoro-phenyl)-6-methoxy-naphthalen-1-yloxy]-phenol | 2.50 g, 54% | FC=1C=C(C=CC1)C1=C(C2=CC=C(C=C2C=C1)OC)OC1=CC=C(C=C1)O | C23H17FO3
